Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.87513393901
[O:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4],5.32948276287
[C:4]#[C:5][H:6].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]#[C:5][H:6],-0.204434804061
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-5.56455426057
[O:1]=[C:2][C@:3]1([H:4])[O:5][C:6][C:7]1[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-1.58788563699
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],8.76709082518
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.95322465098
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.5680115503800005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.61742658692
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.51302194563
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-7.18511114555
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.47293755458
[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.9328354211300014
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12],-4.41709016717
[H:1].[O:2]=[C:3]([H:4])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.81611290163
[C:3]([H:4])([H:5])[H:6].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[H:6],-5.398151085449999
[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.39706689828
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]#[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]1([O:7][H:8])[C:9][C:10]1[H:11],1.44828847363
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],1.0597616922
[H:1][C:2](/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:14]([H:15])([H:16])[H:17],2.2185508153
[C:1]#[C:2].[C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.87619469158
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.4274769347800005
[H:6].[O:1]=[C:2]([H:3])[C:4]([O:5])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.67832326504
[H:1][C:2]([C:3][O:4][C:5]([H:6])[H:7])[O:11][C:8]([H:9])[H:10]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1,-3.15239625528
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],1.623284938
[H:1][O:2][C:3](=[C:4]=[O:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],0.369190487661
[C:1].[C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[C:1]#[C:2][C:3][O:4][C:5]#[C:6][H:7],-6.4477347
[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[O:3]=[C:4]=[C:5]([H:6])[H:7],-1.30442470077
